US08431563B2
To a 100-mL round-bottomed flask was added ethyl glycyl-3-(2-methoxy-3-pyridinyl)alaninate (1.018 g, 3.62 mmol) and N,N-diisopropylethylamine (0.63 mL, 3.62 mmol) in MeOH (20 mL). The reaction mixture was stirred at 70° C. for 36 h. The solvent was partially removed under a vacuum and the solid formed was filtered, washed with MeOH and dried to give 3-((2-methoxy-3-pyridinyl)methyl)-2,5-piperazinedione (0.732 g) as a white solid.

reactant | ethyl glycyl-3-(2-methoxy-3-pyridinyl)alaninate | 3.62 mmol, 1.018 g | NCC(=O)N[C@@H](CC=1C(=NC=CC1)OC)C(=O)OCC | C13H19N3O4
reactant | N,N-diisopropylethylamine | 3.62 mmol, 0.63 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | MeOH | 20 mL | CO | CH4O
product | 3-((2-methoxy-3-pyridinyl)methyl)-2,5-piperazinedione | 0.732 g | COC1=NC=CC=C1CC1C(NCC(N1)=O)=O | C11H13N3O3
